US05760050
8-Methoxy-3-(4-methoxy-benzyl)-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one
Prepared by the procedure of Example 3 from 8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one and 4-methoxybenzaldehyde. Yield 54%; mp 101°-103° C.

reactant | 8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one | COC=1C=CC2=C(C1)OC(C=1CNCCC12)=O | C13H13NO3
reactant | 4-methoxybenzaldehyde | COC1=CC=C(C=O)C=C1 | C8H8O2
product | 8-Methoxy-3-(4-methoxy-benzyl)-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one | Yield 54% | COC=1C=CC2=C(C1)OC(C=1CN(CCC12)CC1=CC=C(C=C1)OC)=O | C21H21NO4
